US05994368
To a suspension of sodium hydride (60% in oil, 474 mg) in N,N-dimethylformamide (2 ml) was added a solution of ethyl 2,6-dichloro-3-hydroxybenzoate (2.42 g) in N,N-dimethylformamide (10 ml) under nitrogen at ambient temperature and the mixture was stirred for 1 hour at the same temperature. Chloromethyl methyl ether (1.15 ml) was added thereto and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:8, V/V) to give ethyl 2,6-dichloro-3-(methoxymethoxy)benzoate (2.58 g) as an oil.

reactant | sodium hydride | 474 mg | [H-].[Na+]
reactant | ethyl 2,6-dichloro-3-hydroxybenzoate | 2.42 g | ClC1=C(C(=O)OCC)C(=CC=C1O)Cl | C9H8Cl2O3
reactant | Chloromethyl methyl ether | 1.15 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2,6-dichloro-3-(methoxymethoxy)benzoate | 2.58 g | ClC1=C(C(=O)OCC)C(=CC=C1OCOC)Cl | C11H12Cl2O4
